US06288243B1
The solution E contained sodium salts of L-ascorbic acid, phosphoric acid and some L-ascorbyl 2-monophosphate, and can be recycled to the phosphorylation process for producing further ascorbyl monophosphate. The solution F contained only a small amount of the remaining L-ascorbic acid and can be recycled to the next batch for separation.

reactant | L-ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | ascorbyl monophosphate | C([C@@H]([C@@H]1C(=C(C(=O)O1)OP(=O)(O)O)O)O)O | C6H9O9P
